US04017599
Monohydroxyaluminum glycinate [Al(OH)(glycinate)2 ] was prepared by reacting 4 grams of glycine with 2.5 grams of aluminum hydroxide powder (28.8% Al) in 30 grams of water. The mixture was heated at 80° C. for one half hour with agitation. The slurry was allowed to cool before adding 200 grams of 331/3 % zirconyl hydrochloride, ZrO(OH)Cl (14.1% Zr). The mixture was heated at 75° C. for 30 minutes. The resultant clear solution was then mixed with 4.14 grams of 50% aluminum chlorhydroxide (basic aluminum chloride), (12.5%). The product was oven dried at 45° C. under a vacuum of 175 mm of Hg, and found to contain 1.9% Al, 43.9% Zr, 5.1% glycine and 17.6% Cl.

reactant | glycine | 4 grams | NCC(=O)O | C2H5NO2
reactant | aluminum hydroxide | 2.5 grams | [OH-].[Al+3].[OH-].[OH-]
reactant | hydrochloride | Cl | ClH
reactant | aluminum chlorhydroxide | 4.14 grams | Cl[O-].[Al+3].Cl[O-].Cl[O-]
solvent | water | 30 grams | O | H2O
product | Monohydroxyaluminum glycinate | NCC(=O)[O-].O[Al+2].NCC(=O)[O-] | InChI=1S/2C2H5NO2.Al.H2O/c2*3-1-2(4)5;;/h2*1,3H2,(H,4,5);;1H2/q;;+3;/p-3
